US04168269
4-Cyclopropylcarbonyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-on
To a mixture of 10.0 g. of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of benzene is added 11 g. of cyclopropanecarbonyl chloride. The mixture is refluxed for 3 hours and then filtered. The filtrate is washed four times with aqueous sodium bicarbonate, the organic layer is dried over magnesium sulfate and then is filtered. The filtrate is evaporated to give the desired product as pale pink crystals, mp. 245°-247° C.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Cyclopropylcarbonyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-on | C1(CC1)C(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C15H12N2O2S
